US08119663B2
Ethyl 1-(cyclopentylcarbonyl)-5-[4-(1-methylethyl)phenyl]piperidine-3-carboxylate [racemic cis/trans isomer mixture]
1.5 g (5.3 mmol) of ethyl 5-[4-(1-methylethyl)phenyl]piperidine-3-carboxylate were dissolved in 18 ml of dichloromethane, and 0.81 g (7.9 mmol) of triethylamine was added at 0° C. 1.43 g (10.5 mmol) of cyclopentanecarbonyl chloride were then added dropwise.

reactant | ethyl 5-[4-(1-methylethyl)phenyl]piperidine-3-carboxylate | 5.3 mmol, 1.5 g | CC(C)C1=CC=C(C=C1)C1CC(CNC1)C(=O)OCC | C17H25NO2
reactant | triethylamine | 7.9 mmol, 0.81 g | C(C)N(CC)CC | C6H15N
reactant | cyclopentanecarbonyl chloride | 10.5 mmol, 1.43 g | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
product | Ethyl 1-(cyclopentylcarbonyl)-5-[4-(1-methylethyl)phenyl]piperidine-3-carboxylate | C1(CCCC1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)C(C)C)C(=O)OCC | C23H33NO3
